US05310929
Part C: Preparation of Isobutyryloxymethyl 4-ethyl-2-propyl-1-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylate
To a solution of 0.46 g isobutyryloxymethyl 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylate in 10 mL MeOH was added 1 5 mL glacial acetic acid and the mixture stirred 2 days at room temperature. The reaction was evaporated to near dryness and the residue purified by flash chromatography using a 0% to 5% MeOH/CHCl3 gradient. There was obtained 0.250 g of the title compound.

reactant | isobutyryloxymethyl 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.46 g | C(C)C=1N=C(N(C1C(=O)OCOC(C(C)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C47H46N6O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | MeOH | 10 mL | CO | CH4O
product | Isobutyryloxymethyl 4-ethyl-2-propyl-1-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.250 g | C(C)C=1N=C(N(C1C(=O)OCOC(C(C)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C28H32N6O4
